### PR TITLE
[Merged by Bors] - chore: tidy various files

### PR DESCRIPTION
**Pull request by Ruben-VandeVelde**
---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Algebra/Basic.lean [hunk 1]
```diff
@@ -344,7 +344,7 @@ theorem coe_inj {a b : R} : (↑a : A) = ↑b ↔ a = b :=
 theorem coe_eq_zero_iff (a : R) : (↑a : A) = 0 ↔ a = 0 :=
   FaithfulSMul.algebraMap_eq_zero_iff _ _
 
-@[deprecated coe_eq_zero_iff (since := "29/09/2025")]
+@[deprecated coe_eq_zero_iff (since := "2025-10-21")]
```
Comment (Ruben-VandeVelde) [inline Mathlib/Algebra/Algebra/Basic.lean:347]: This dates from #29356

File: Mathlib/Analysis/AbsoluteValue/Equivalence.lean [hunk 2]
```diff
@@ -108,11 +108,11 @@ alias eq_trivial_of_isEquiv_trivial := isEquiv_trivial_iff_eq_trivial
 
 variable [IsStrictOrderedRing S]
 
-set_option linter.flexible false in -- TODO: non-terminal simp_all with no obvious fix
```
Comment (grunweg) [inline Mathlib/Analysis/AbsoluteValue/Equivalence.lean:111]: Nice!

**Review by grunweg — COMMENTED** [review]
At this point, I'll presume that none of the new `simp`s is visibly slow.
Nice work, thanks as always!
bors merge

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 3]
```diff
@@ -1022,7 +1022,7 @@ lemma exists_isAffineOpen_preimage_eq
   obtain ⟨j, hj⟩ := Scheme.exists_isAffine_of_isLimit _ _ (isLimitOpensCone D c hc i U)
   refine ⟨_, _, hj, ?_⟩
   rw [← Scheme.Hom.comp_preimage, c.w]
-  rfl
+  simp
```
Comment (vihdzp) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1025]: What's happening here? Is `rfl` somehow slow or abusive?

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean [hunk 4]
```diff
@@ -1048,7 +1048,7 @@ lemma Scheme.exists_isOpenCover_and_isAffine [IsCofiltered I]
   refine ⟨k, s, fun x ↦ D.map (fkj ≫ fi x.1 x.2) ⁻¹ᵁ V _, ?_, fun k ↦ ⟨(hV k).preimage _, ?_⟩⟩
   · refine top_le_iff.mp (e.symm.trans_le ?_)
     simp_rw [Hom.preimage_iSup, ← Hom.comp_preimage, iSup_subtype, ← D.map_comp]
-    rfl
+    simp
```
Comment (vihdzp) [inline Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1051]: Same here (and elsewhere)

File: Mathlib/Data/Set/Lattice.lean [hunk 5]
```diff
@@ -1365,8 +1365,8 @@ theorem inter_iInter_nat_succ (u : ℕ → Set α) : (u 0 ∩ ⋂ i, u (i + 1))
   inf_iInf_nat_succ u
 
 theorem iUnion_le_nat : ⋃ n : ℕ, {i | i ≤ n} = Set.univ :=
- subset_antisymm (Set.subset_univ _)
-   (fun i _ ↦ Set.mem_iUnion_of_mem i (Set.mem_setOf.mpr (le_refl _)))
+  subset_antisymm (Set.subset_univ _)
+    (fun i _ ↦ Set.mem_iUnion_of_mem i (Set.mem_setOf.mpr (le_refl _)))
```
Comment (vihdzp) [inline Mathlib/Data/Set/Lattice.lean:1369]:
```suggestion
    fun i _ ↦ Set.mem_iUnion_of_mem i (Set.mem_setOf.mpr le_rfl)
```

File: Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean (hunk 3 above)
Comment (grunweg) [reply Mathlib/AlgebraicGeometry/AffineTransitionLimit.lean:1025]: My understanding is that "simp is more robust" (if some of the involved definitions changes), but I'll let Ruben confirm.
